US08809361B2
1″-(5-Ethyl-pyrimidin-2-yl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
A mixture of 5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (HCl salt; 50 mg), 2-chloro-5-ethyl-pyrimidine (18 mg), potassium carbonate (35 mg), and N-methyl-pyrrolidinone (2 ml) is stirred at 80° C. for 4 h. After cooling to room temperature, water is added and the resulting mixture is extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 1:1→1:9) to give the title compound. LC (method 1): tR=1.16 min; Mass spectrum (ESI+): m/z=491 [M+H]+.

reactant | 5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | 50 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCNCC3)C1)C2 | C21H24N2O3S
reactant | 2-chloro-5-ethyl-pyrimidine | 18 mg | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | potassium carbonate | 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methyl-pyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 1″-(5-Ethyl-pyrimidin-2-yl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | C(C)C=1C=NC(=NC1)N1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)C)O1 | C27H30N4O3S
